US06225311B1
3-Hydroxy-2-(4-methoxy-benzenesulfonylamino)-propionic acid methyl ester
To a mixture of 5.0 g (32.14 mmol) of D, L-serine methyl ester and 15.7 mL (0.012 mol) of triethylamine in 100 mL of dichloromethane, cooled to 0° C., was added 6.64 g (32.14 mmol) of 4-methoxybenzenesulfonyl chloride. The mixture was then stirred under argon at room temperature for two days. The mixture was diluted with 100 mL of dichloromethane and then washed with 60 mL each of water, 2N citric acid and brine and than dried over Na2SO4. The solvent was removed under vacuum to give a solid which was recrystallized from ethyl acetate to give 5.0 g (54%) of the product as white crystals, m.p. 92-94° C.

reactant | L-serine methyl ester | COC([C@@H](N)CO)=O | C4H9NO3
reactant | triethylamine | 0.012 mol, 15.7 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 32.14 mmol, 6.64 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3-Hydroxy-2-(4-methoxy-benzenesulfonylamino)-propionic acid methyl ester | 5.0 g, 54% | COC(C(CO)NS(=O)(=O)C1=CC=C(C=C1)OC)=O | C11H15NO6S
